US04355177
The procedure described in Example 1(a) is repeated, except that 215.3 g (1 mol) of N-benzylidene-(2-ethyl-1-hexenylamine) [1-phenyl-4-ethyl-4-n-butyl-2-aza-1,3-butadiene; prepared by reacting benzylamine with 2-ethyl-hexenal and then isomerising the reaction product with potassium tert.-butylate; boiling point 90° C./7 Pa; nD20 =1.5630] are used. Distillation yields 288 g (0.891 mol) of 3-n-butyl-3-ethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene; boiling point 130° C./2 Pa; nD20 =1.5296.

reactant | N-benzylidene-(2-ethyl-1-hexenylamine) | 1 mol, 215.3 g | C(C1=CC=CC=C1)=NC=C(CCCC)CC | C15H21N
reactant | 1-phenyl-4-ethyl-4-n-butyl-2-aza-1,3-butadiene | C1(=CC=CC=C1)C=NC=C(CCCC)CC | C15H21N
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-ethyl-hexenal | C(C)C(C=O)=CCCC | C8H14O
product | 3-n-butyl-3-ethyl-12-phenyl-1-aza-1,5,9-cyclododecatriene | 0.891 mol, 288 g | C(CCC)C1(C=NC(CC=CCCC=CC1)C1=CC=CC=C1)CC | C23H33N
